US07189741B2
This compound was prepared following the procedure described in example 13 (part B) starting with 4 g (13.8 mmol) of 4-(6-fluoro-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester (example 24, part A) and 16 mL of (16 mmol) of a freshly prepared 1M solution in ethyl ether of 2-bromomethyl-thiophene. The reaction mixture was stirred at room temperature for 18 hours. After standard work-up, 5.42 g (100% of yield) of 4-(6-fluoro-1-thiophen-2-ylmethyl-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester were obtained.

reactant | 4-(6-fluoro-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 13.8 mmol, 4 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC(=CC=C12)F | C16H19FN2O2
reactant | 2-bromomethyl-thiophene | BrCC=1SC=CC1 | C5H5BrS
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-(6-fluoro-1-thiophen-2-ylmethyl-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 5.42 g, 100% | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC(=CC=C12)F)CC=1SC=CC1 | C21H23FN2O2S
